US09238632B2
2) Preparation of 3-((2-hydroxyethyl)methylamino)benzonitrile
3-methylaminobenzonitrile (11.36 g, 86 mmol, 1.0 eq), 2-bromoethanol (43.00 g, 344 mmol, 4.0 eq) and CaCO3 (34.40 g, 344 mmol, 4.0 eq) are added into water (150 ml) at room temperature, and the resulting mixture is refluxed with elevated temperature for 13.5 h, then cooled and filtered, and the aqueous solution is extracted with ethyl acetate (100 ml*3). The organic phases are combined, washed with water (20 ml*2), washed with saturated brine twice, dried over anhydrous sodium sulfate, and concentrated to give a light yellow oily crude product (11.55 g, crude yield: 76.2%). The crude product can be used directly in next step without purification.

reactant | 3-methylaminobenzonitrile | 86 mmol, 11.36 g, 1.0 eq | CNC=1C=C(C#N)C=CC1 | C8H8N2
reactant | 2-bromoethanol | 344 mmol, 43.00 g, 4.0 eq | BrCCO | C2H5BrO
reactant | CaCO3 | 344 mmol, 34.40 g, 4.0 eq | C(=O)([O-])[O-].[Ca+2]
solvent | water | 150 ml | O | H2O
product | 3-((2-hydroxyethyl)methylamino)benzonitrile | 11.55 g | OCCN(C=1C=C(C#N)C=CC1)C | C10H12N2O
